US05660814
According to the procedure described in Example 5, 171.3 g of 1,4,7,10-tetraazacyclododecane (1,00 mol) in 500 ml of DMA are reacted with 190 g of 3-[[6-[(chloroacetyl) amino]-1-oxohexyl]amino]-α-ethyl-2,4,6-triiodobenzenepropanoic acid (prepared according to the procedure described in Example 2) (0,25 mol) in 250 ml of DMA. 155 g of α-ethyl-2,4,6-triiodo-3-[[1-oxo-6-[(1,4,7,10-tetraazacyclododec-1-yl-acetyl)amino]hexyl]amino]benzenepropanoic acid (0.147 mol) are obtained.

reactant | 1,4,7,10-tetraazacyclododecane | 1,00 mol, 171.3 g | N1CCNCCNCCNCC1 | C8H20N4
reactant | 3-[[6-[(chloroacetyl) amino]-1-oxohexyl]amino]-α-ethyl-2,4,6-triiodobenzenepropanoic acid | 190 g | ClCC(=O)NCCCCCC(=O)NC=1C(=C(C(=CC1I)I)CC(C(=O)O)CC)I | C19H24ClI3N2O4
solvent | DMA | 500 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 250 ml | CC(=O)N(C)C | C4H9NO
product | α-ethyl-2,4,6-triiodo-3-[[1-oxo-6-[(1,4,7,10-tetraazacyclododec-1-yl-acetyl)amino]hexyl]amino]benzenepropanoic acid | 0.147 mol, 155 g, Yield: 59% | C(C)C(C(=O)O)CC1=C(C(=C(C=C1I)I)NC(CCCCCNC(CN1CCNCCNCCNCC1)=O)=O)I | C27H43I3N6O4
